US08278343B2
Preparation 40: 3-[4-(5-Chloro-pyrimidin-2-yl)-phenoxymethyl]-1-(4-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 4-(5-chloro-pyrimidin-2-yl)-phenol (Preparation 19) and 3-iodomethyl-1-(4-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 14) to afford the racemate as a white solid (245 mg, 76%)

reactant | 4-(5-chloro-pyrimidin-2-yl)-phenol | ClC=1C=NC(=NC1)C1=CC=C(C=C1)O | C10H7ClN2O
reactant | 3-iodomethyl-1-(4-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)CI | C16H20INO4
product | 3-[4-(5-Chloro-pyrimidin-2-yl)-phenoxymethyl]-1-(4-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)COC1=CC=C(C=C1)C1=NC=C(C=N1)Cl | C26H26ClN3O5
